US09302989B2
N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(1-methyl-1H-pyrazol-4-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and 5-bromo-N-(4-(2-cyclopentylacetamido)phenyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.27 (s, 1H), 8.14 (s, 1H), 7.88-7.85 (m, 1H), 7.55-7.40 (m, 6H), 7.36-7.30 (m, 1H), 4.77-4.69 (m, 4H), 3.86 (s, 3H), 2.31-2.16 (m, 3H), 1.81-1.68 (m, 2H), 1.68-1.42 (m, 4H), 1.28-1.12 (m, 2H); MS (ESI(+)) m/e 444 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | 5-bromo-N-(4-(2-cyclopentylacetamido)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)NC(CC1CCCC1)=O | C22H24BrN3O2
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-{4-[(cyclopentylacetyl)amino]phenyl}-5-(1-methyl-1H-pyrazol-4-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C=1C=NN(C1)C | C26H29N5O2
